2139-02-12 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 PICC LINE - START [**2139-2-11**] 04:00 PM
   triple lumen PICC, able to transduce CVP from purple port. PICC line
   was found to be in azygous vein by x-ray. Pulled back. Patient now has
   no central access.
   Hematocrit dropped this morning to 21
 1 unit PRBC to be transfused.
   Mixed venous O2 sat was 84 (normal)
   History obtained from Family / Friend
   [**Name (NI) 53**] unable to provide history: Unresponsive
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-11**] 08:08 PM
   Metronidazole - [**2139-2-12**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-12**] 05:42 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-12**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 92 (56 - 92) bpm
   BP: 118/47(65) {91/42(55) - 143/80(124)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (13 - 16)mmHg
   Mixed Venous O2% Sat: 84 - 84
   Total In:
                                                                  1,547 mL
                                                                    349 mL
   PO:
   TF:
   IVF:
                                                                  1,547 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                    340 mL
                                                                     70 mL
   Urine:
                                                                    190 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,207 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 650 (650 - 650) mL
   RR (Set): 10
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 120
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: ///19/
   Ve: 6.4 L/min
   Physical Examination
   General: NAD, intubated. Does not respond to commands or questions.
   Opens eyes to pain. GCS = 6
   HEENT: Serosanguinous secretions noted from ET tube when suctioned.
   Heterogeneous mass palpable in anterior neck without discoloration or
   pitting.
   CV: Regular rate and rhythm, normal S1 and S2, no murmurs, rubs, or
   gallops
   Lungs: Bilateral expiratory wheezes and scattered crackles bilaterally
   Abdomen: Soft, nondistended, no masses. Bowel sounds active. Ileostomy
   bag in place draining black fluid.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: 1+), (Left DP pulse: 1+)
   Skin:  Warm under Bair Hugger, multiple ecchymoses noted over entire
   surface of body. 2+ pitting edema in all extremities
   Neurologic: Responds to: Pain, Movement: Moves head somewhat, Tone:
   ?Grip  to command.
   Labs / Radiology
   39 K/uL
   7.1 g/dL
   70 mg/dL
   2.2 mg/dL
   19 mEq/L
   4.1 mEq/L
   25 mg/dL
   105 mEq/L
   143 mEq/L
   21.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2139-2-11**]  04:08 PM
                             [**2139-2-12**]  03:23 AM
                             [**2139-2-12**]  05:21 AM
   WBC
   8.4
   6.3
   Hct
   28.8
   21.9
   21.5
   Plt
   45
   39
   Cr
   2.1
   2.2
   Glucose
   195
   70
   Other labs: PT / PTT / INR:13.0/41.4/1.1, Differential-Neuts:84.1 %,
   Band:0.0 %, Lymph:12.2 %, Mono:3.0 %, Eos:0.5 %, Lactic Acid:1.2
   mmol/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   CXR: Shows bilateral pleural effusions and infiltrates in the right and
   ?left lobes.
   Assessment and Plan
   Assessment: 75 year old female with history of recurrent drug-resistant
   UTIs, ESRD, CAD, HTN and chronic stasis dermatitis/cellulitis who is
   admitted from an OSH with altered mental status, hypothermia and
   presumed sepsis.
   Plan:
   # Presumed sepsis: Likely sources are sputum growing GPCs, urine
   culture growing pseudomonas (though less than 100,000 colonies), all at
   OSH.  [**Last Name (un) **] stim done at OSH, >9 point increase in cortisol level.
   - PICC line, triple lumen in place from OSH- needs to be replaced or
   moved centrally via fluoroscopy
   - IV fluids to goal CVP 8-12 off PICC, check ScVO2
   - Transfuse for Hct > 25
   - CXR here, review films from OSH
   - IV fluid boluses and Levophed to maintain MAP > 65 and UOP > 30cc/hr,
   wean levophed for now as CVP 16, MAP> 65 at this time
   - Broad spectrum abx including vanc, zosyn, flagyl
   - Will obtain DIC panel and LFTs for signs of end-organ damage.
   - Follow-up blood, urine and sputum cultures
   - Will resend the above, and stool cultures for C. diff
   - Trend WBC count, fever curve
   - No indication for stress dose steroids, though these had been started
   at OSH, can reconsider if persistently hypotensive
   - Can discuss abx choice with ID in am as patient is followed as
   outpatient by Dr. [**First Name (STitle) 7384**].
   .
   # AMS: Appears to be improving. Patient can open eyes spontaneously.
   Had Neuro consult at OSH, ruled out myxedema given thyroid disease, MRI
   unremarkable.  CT head negative for bleed.  Most likely
   multifactorial.  Low index of suspician for CNS infection given
   presentation and imaging.
   - Continue to follow mental status
   - Will review MRI with radiology
   - Avoid sedating meds if possible
   - Consider Haldol prn agitation, propofol if sedation needed
   # Neck fullness: Differential includes edema or hemorrhage possible due
   to hx of thyroid surgery.
   - Will obtain head and neck CT to evaluate.
   .
   # Stage V CKD: Followed by transplant surgery as outpatient.  Had plan
   for AVF placement on [**1-7**] but postponed due to recurrent
   UTI/urosepsis.  Has not needed urgent HD to date.
   - Renal consult for recommendations on inpatient management, ?of
   initiating HD/CVVHD, though does not appear to have indication at this
   time
   - Renally dose all meds, follow vanc level
   - Continue outpatient meds including phoslo, epo (will clarify dose).
   Will hold on iron supplementation as NPO for now.
   .
   # Thrombocytopenia: Unclear [**Name2 (NI) 7385**].  Admit platelet count to OSH
   was within normal limits, HIT ab negative. Likely medication induced
   versus critical illness effect.
   - Will give DDAVP to mobilize vWF and increase ability for hemostasis
   - Send smear
   - Stop all potential exacerbating drugs
   - If continues to fall, will call heme consult
   .
   # PTT coagulopathy: Increased out of proportion to the rest of
   coagulation profile.  [**Month (only) 60**] be related to critical illness.  Got FFP at
   OSH today.  PTT up to 100s at OSH.
   - Check APLA, lupus anticoagulant (pending)
   - Will check mixing studies to rule out acquired factor deficiency
   - Continue to trend
   .
   # Anemia: Drop in hematocrit of uncertain origin. No obvious source of
   bleed. ?GI bleed due to Guiac positive stool, though no frank blood in
   ileostomy bag or on other sources of bleeding. Chronic, macrocytic, due
   to ESRD and B12 deficiency. Baseline around 25.
   - Will obtain head, neck, chest, abdomen, and pelvis CT scans to rule
   out occult sources of bleeding.
   - Received 1 unit PRBC
   - Serial hematocrits q4 hours with goal > 25
   - Continue procrit q Sunday
   - Maintain active T&S
   - B12 injections Q month
   - Holding iron supplementation as above
   .
   # Bradycardia: History of CAD, no MI, last ECHO [**2138-3-7**].  Has
   low voltage on ECG from OSH today as well, and given low albumin,
   concerning for pericardial effusion.
   - Repeat ECHO here today
   - Repeat ECG
   - Continue to follow
   .
   # Chronic cellulitis/venous insufficiency: Continue outpatient wound
   care. Wound care consult placed for further recommendations.
   .
   # Hypertension: Hold antihypertensives for now given
   sepsis/hypotension. Not currently on pressors.
   .
   # UC s/p colectomy with ileostomy: Ostomy care
   .
   # FEN: Nutrition consult placed for TF recommendations, No longer on
   pressors, so patient can be fed.  Can consider TPN given IBD and watery
   diarrhea. IVF as above to maintain MAP and UOP. Replete lytes prn.
   .
   # Access: Triple lumen PICC. Not currently centrally located but will
   be advanced/ replaced this morning.
   .
   # PPx: Holding DVT ppx given lower extremity skin breakdown and low
   platelets, PPI, VAP ppx, HOB > 30 degrees
   ICU Care
   Nutrition: OG tube in place. Will require tube feedings
   Glycemic Control:  Well-controlled
   Lines:
   PICC Line - [**2139-2-11**] 04:00 PM
   Prophylaxis:
   DVT: No PPx yet due to low platelets. Will consider boots
   Stress ulcer: PPI, 40mg daily
   VAP:  HOB > 30 degrees
   Comments:
   Communication:  Comments:
   Code status:  DNR, intubated
   Disposition: ICU
   Note edited by [**First Name8 (NamePattern2) 3080**] [**Last Name (NamePattern1) 7391**] (MS4) pager #[**Numeric Identifier 7392**]
   Seen and examined pt with [**Doctor Last Name 7391**] MS-IV, agree with above note and
   plan.

2139-02-12 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PICC found to be in azygous yest pm- pulled back to midline position.
   Hct drip this morning without clinical evidence of bleeding. Still
   oozing from nares.
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-11**] 08:08 PM
   Metronidazole - [**2139-2-12**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-12**] 05:42 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Peridex, Protonix, Phoslo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-12**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 100 (56 - 100) bpm
   BP: 119/51(66) {91/39(52) - 143/80(124)} mmHg
   RR: 16 (0 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (13 - 16)mmHg
   Mixed Venous O2% Sat: 84 - 84
                                Total In:
                                                                  1,547 mL
                                                                    452 mL
   PO:
                                TF:
   IVF:
                                                                  1,547 mL
                                                                    362 mL
   Blood products:
   90 mL
   Total out:
                                                                    340 mL
                                                                    155 mL
   Urine:
                                                                    190 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,207 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 650 (650 - 650) mL
   RR (Set): 10
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 120
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ///19/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, full neck- heterogenous
   masses noted w/ tracheal mobility limited
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: laterally)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Clubbing
   Skin:  Warm, Rash: scattered ecchymoses
   Neurologic: Attentive, Responds to: Noxious stimuli, Movement: Non
   -purposeful, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   39 K/uL
   70 mg/dL
   2.2 mg/dL
   19 mEq/L
   4.1 mEq/L
   25 mg/dL
   105 mEq/L
   143 mEq/L
   21.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2139-2-11**]  04:08 PM
                             [**2139-2-12**]  03:23 AM
                             [**2139-2-12**]  05:21 AM
   WBC
   8.4
   6.3
   Hct
   28.8
   21.9
   21.5
   Plt
   45
   39
   Cr
   2.1
   2.2
   Glucose
   195
   70
   Other labs: PT / PTT / INR:13.0/41.4/1.1, Differential-Neuts:84.1 %,
   Band:0.0 %, Lymph:12.2 %, Mono:3.0 %, Eos:0.5 %, Lactic Acid:1.2
   mmol/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: OSH Sputum- ([**2-9**]) GPCs in clusters
   ScVO2 yest- 84%
   Imaging: CXR- B effusions, interstitial edema. ETT 1.4cm above carina
   Microbiology: Blood, Urine- pending
   C.diff- pending
   Assessment and Plan
   POSSIBLE SEPSIS- hemodynamically stable since admission. Renal fxn at
   baseline albeit oliguric. Mental status limited but unclear if related
   primarily to sepsis at this point.
   -cont empiric ABX for now and f/u both OSH and from this admission
   -poss sources include GU
   RESPIRATORY FAILURE- both hypoxemic and related to obtundation. Now
   with evidence of pulm edema and pleural effusions. No pulm infiltrate
   to suggest pna
   -pt w/ spont rate; could trial PSV today. No plans to extubate given
   obtundation
   -consider diuresis if Hct stable, remains hemodynamically stable
   -pulm toilet, HOB up, mouth care
   ALTERED MS- Most likely multifactorial. Low index of suspicion for
   bacterial meningitis. OSH MRI not consistent with Herpes.
   -repeat head CT today
   -Supportive Rx at present.
   -Judicious sedation. Avoid benzos. --> may take some time for OSH benzo
   admin to wear off
   THROMBOPENIA- progressive. Thought at OSH to be related to Unasyn tx.
   HIT at OSH was negative. ? persistent med effect (beta lactam, vanco)
   -f/u smear
   -check DIC panel
   -poss Heme c/s
   ANEMIA- Hct drop this am but no clinical signs of overt bleeding. Prob
   component of renal dysfxn-related plt dysfxn
   -ddAVP today, followed by plt trx to goal >50k
   -given low plts monitor for occult RP bleed, subcut bleed --> CT a/p to
   eval
   -monitor clinical picture, serial Hcts
   ISOLATED ELEVATED PTT- mixing studies, APLA studies pending
   SEVERE MALNUTRITION- per family longstanding poor nutrition
   -Nutrition to see
   ACUTE ON CHRONIC RENAL FAILURE- no current indications for CVVH or HD.
   Will consult renal to follow with us
   -cont Epo for ACD, Phos binders
   BRADYCARDIA- repeat echo, most likely related to prior hypothermia
   NECK FULLNESS- ? if prior CVC line attempts leading to hematoma. Occult
   malig?
   -start with CT neck, may need U/S
   GOALS OF CARE- grave prognosis, already discussed w/ family yest. Will
   continue to re-address. Now DNR.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2139-2-11**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2139-02-13 06:48:00 Physician Resident Progress Note
TITLE:
   TITLE:
   Chief Complaint: Altered Mental Status/ Possible sepsis
   24 Hour Events:
   - CT torso (prelim) showed: Large bilateral pleural effusions with
   complete left lower lobe collapse and near complete right lower lobe
   collapse. No RP bleed.
   - CT neck/head showed: No focal fluid collection is seen in the neck.
   Mild stranding of the soft fat is identified bilaterally. Degenerative
   changes are seen in the cervical spine. Opacity seen in partially
   visualized right upper lung, for which correlation with torso CT is
   recommended. No acute intracranial abnormalities or hemorrhage. Sinus
   fluid level and soft tissue changes could be related to intubation but
   clinical correlation recommended.
   - She was transfused with 1 unit of PRBC for a Hct of 21.5 in the am
   and bumped her Hct to 25.0.
   - Fe studies returned at Fe 122, TIBC 138, ferritin 402, and TRF of
   106.  DIC labs were negative.  LFTs WNL.
   - TTE showed: Mild symmetric LVH with EF>55%. Suboptimal technical
   quality, a focal LV wall motion abnormality cannot be fully excluded.
   Moderate tricuspid regurgitation. Moderate pulmonary hypertension.
   Pleural effusions.
   - PICC was pulled back, however CXR showed it may still cannulate in
   the azygous, will recheck placement on CXR in the am.
   - OSH Cx checked, BCx [**2-9**] NGTD, UCx [**2-9**] 40,000 Pseudomonas sensitive to
   ceftaz, gent, and pip-tazo, BCx [**2-10**] NGTD, Sputum Cx [**2-11**] pending
   - Renal recs: Attg thinks her decreased mental status is due to uremia,
   if no other cause is identified would recommend dialyzing her.
   - C.diff and stool Cx pending.
   - DDAVP given x 1 for uremic platlets.
   - UCx from [**2-11**] grew yeast so her foley was changed.
   - Nutrition consult recommended tube feedings with Novasource Renal-
   15g beneprotein at 10mL/hr, advance by 10mL 16hto goal of 30 mL/hr x24
   hours
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-11**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-12**] 10:05 PM
   Metronidazole - [**2139-2-13**] 04:31 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-13**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35
C (95
   HR: 97 (81 - 100) bpm
   BP: 131/63(80) {91/13(26) - 147/92(106)} mmHg
   RR: 16 (0 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 17 (8 - 17)mmHg
   Total In:
                                                                  1,562 mL
                                                                    369 mL
   PO:
   TF:
                                                                    212 mL
                                                                    202 mL
   IVF:
                                                                    865 mL
                                                                    167 mL
   Blood products:
                                                                    285 mL
   Total out:
                                                                    495 mL
                                                                     95 mL
   Urine:
                                                                    345 mL
                                                                     95 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  1,067 mL
                                                                    274 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.43/30/96.[**Numeric Identifier 244**]/18/-2
   Ve: 7.8 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General: NAD, intubated.
   HEENT: NC/AT. Crusted blood noted in right nostril, packed with gauze.
   Heterogeneous mass noted in neck, unchanged since yesterday.
   CV: RRR, normal S1 and S2. No murmurs, rubs, or gallops
   Lungs: Coarse rhonchi noted throughout. Expiratory wheezes noted
   bilaterally.
   Abdomen: Soft, nondistended, no masses. Ileostomy tube draining black
   fluid.
   Extremities: warm with 2+ edema bilaterally. Icthyosis and multiple
   ecchymoses noted.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: 1+), (Left DP pulse: 1+)
   Skin:  Multiple ecchymoses noted in all extremities and in abdomen.
   Rash noted on right lower thigh, unchanged since yesterday.
   Neurologic: Opens eyes spontaneously. Responds to: Withdraws from pain,
   Movement: Moves without purpose. GCS = 9. Tone: Not able to be assessed
   Labs / Radiology
   42 K/uL
   9.0 g/dL
   93 mg/dL
   2.2 mg/dL
   18 mEq/L
   3.6 mEq/L
   29 mg/dL
   107 mEq/L
   146 mEq/L
   25.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2139-2-11**]  04:08 PM
                             [**2139-2-12**]  03:23 AM
                             [**2139-2-12**]  05:21 AM
                             [**2139-2-12**]  08:49 AM
                             [**2139-2-12**]  01:29 PM
                             [**2139-2-12**]  07:10 PM
                             [**2139-2-13**]  04:14 AM
   WBC
   8.4
   6.3
   7.4
   Hct
   28.8
   21.9
   21.5
   25.0
   23.6
   25.7
   Plt
   45
   39
   42
   Cr
   2.1
   2.2
   2.2
   TCO2
   21
   Glucose
   195
   70
   93
   Other labs: PT / PTT / INR:12.8/33.8/1.1, ALT / AST:17/19, Alk Phos / T
   Bili:117/0.2, Differential-Neuts:84.1 %, Band:0.0 %, Lymph:12.2 %,
   Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL, Fibrinogen:295 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.3 g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, CHRONIC
 MALNUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment: 75 year old female with history of recurrent drug-resistant
   UTIs, ESRD, CAD, HTN and chronic stasis dermatitis/cellulitis who is
   admitted from an OSH with altered mental status, hypothermia and
   presumed sepsis.
   # UTI/ Presumed sepsis: Likely sources are sputum growing GPCs, urine
   culture growing pseudomonas (though less than 100,000 colonies), all at
   OSH.  [**Last Name (un) **] stim done at OSH, >9 point increase in cortisol level. DIC
   panel negative
   - PICC line, triple lumen in place from OSH- needs to be replaced or
   moved centrally via fluoroscopy
   - IV fluids to goal CVP 8-12 off PICC, check ScVO2
   - Transfuse for Hct > 25, checking q6 hematocrits
   - Broad spectrum abx including vanc, zosyn, flagyl
 for coverage of
   known pseudomasl UTI (zosyn) and vanc for GPC
s, flagyl for empiric C.
   diff coverage
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count, fever curve
   - Patient is followed as outpatient by Dr. [**First Name (STitle) 7384**] (ID)
 will contact
   # AMS: Appears to be improving, eyes intermittently open though she
   does not open eyes to command, but withdraws from pain. Had Neuro
   consult at OSH, ruled out myxedema given thyroid disease, MRI
   unremarkable.  CT head negative for bleed.  Renal consult believes
   uremia could be the cause- patient is to be dialyzed today after line
   placement with IR, so will assess response. Most likely
   multifactorial.  Low index of suspician for CNS infection given
   presentation and imaging, no LP for now.  Other causes could include
   sub-clinical seizure.
   - Continue to follow mental status
   - Will obtain EEG to rule out seizure activity
   - Hemodialysis today after catheter placement by IR.
   - Avoid sedating meds if possible
   - Consider Haldol prn agitation, propofol if sedation needed
   #Hypernatremia: 146 this morning. Likely secondary to large amounts of
   saline given IV
   - Increase free water boluses to 250 mL q8 hours
   - trend
   # Stage V CKD: Followed by transplant surgery as outpatient.  Had plan
   for AVF placement on [**1-7**] but postponed due to recurrent
   UTI/urosepsis.  Has not needed urgent HD to date.   Per renal c/s,
   possible cause of AMS is uremia, plan as above.
   - To IR for HD tunneled catheter placement today
   - Hemodialysis following tunneled catheter placement
   - Renally dose all meds, follow vanc level. Vanco trough to be drawn
   tomorrow AM
   - Continue outpatient meds including phoslo, epo (will clarify dose).
   Will hold on iron supplementation as NPO for now.
   # Thrombocytopenia: 42 this morning, up from 39.  Unclear [**Name2 (NI) 7385**].
   Admit platelet count to OSH was within normal limits, HIT ab negative.
   Likely medication induced versus critical illness effect. DDAVP given
   with minimal effect, but not dropping
   - Will need to transfuse platelets if required for line placement
   - Send smear
   - If continues to fall, will call heme consult
   # Neck fullness: CT shows no hemorrhage or focal fluid collection. [**Month (only) 60**]
   be edema from prior thyroid surgery or normal body habitus, as CT read
   shows soft fat with mild stranding.
   # PTT coagulopathy: Resolving. Current PTT of 33.8 is reduced from 41.4
   ( >100 on admission).  Got FFP at OSH several days ago.
   - APLA, lupus anticoagulant pending
   - mixing studies to rule out acquired factor deficiency pending
   - Continue to trend
   # Anemia: Hct stable this morning at 25.  Had drop in hematocrit from
   28--
21, unclear cause. No obvious source of bleed. ?GI bleed due to
   Guiac positive stool, though no frank blood in ileostomy bag or on
   other sources of bleeding. Chronic, macrocytic, due to ESRD and B12
   deficiency. Baseline around 25.  No GI c/s for now as hct stable.
   - Received 1 unit PRBC [**2-12**] with appropriate bump
   - Serial hematocrits q6 hours with goal > 25
   - Continue procrit q Sunday
   - Maintain active T&S
   - B12 injections Q month
   - Holding iron supplementation as above
   # Bradycardia:  None since admission.  History of CAD, no MI, last ECHO
   [**2138-3-7**].  Has low voltage on ECG from OSH  as well, and given
   low albumin, concerning for pericardial effusion. Echo on [**2138-2-11**] shows
   LVEF of 55%.
   - Continue to follow
   # Chronic cellulitis/venous insufficiency: Appreciate wound care
   recommendations. Will keep legs elevated, turn and reposition every [**2-6**]
   hours, keep heels off bed, and keep legs moisturized and clean.
   # Hypertension: Hold antihypertensives for now given
   sepsis/hypotension. Not currently on pressors.  BP
s have been
   110-120
s systolic.
   # UC s/p colectomy with ileostomy: Ostomy care
   # FEN: Appreciate nutrition consult.  Will give tube feedings
   (Novasource Renal diet with 15g beneprotein at 10mL/hr, increased by
   10mL/hr to 30mL/hr x24 hours).
   -Will check residuals- feedings to be held if residuals > 150 mL.
   - If transitioned to TPN, will start regular TPN protocol and check
   triglycerides.Can consider TPN given IBD and watery diarrhea. IVF as
   above to maintain MAP and UOP. Replete lytes prn.
   # Access: Triple lumen PICC. Not currently centrally located.
   # PPx: Holding DVT ppx given lower extremity skin breakdown and low
   platelets, PPI, VAP ppx, HOB > 30 degrees
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-2-12**] 04:56 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-2-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status:  DNR
   Disposition: [**Hospital Unit Name 44**]
   [**First Name8 (NamePattern2) 3080**] [**Last Name (NamePattern1) 7391**] (MS4) pager #[**Numeric Identifier 7392**]
   Patient seen and examined with medical student and I agree with
   excellent physical exam and assessment and plan as out lined above.
   [**Known firstname **] [**Last Name (NamePattern1) **], MD
   PGY 1
   Pager [**Numeric Identifier 7415**]

2139-02-13 11:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received ddAVP yest. ? sz activity (fluttering eyelid and eye
   twitching) noted by overnight RN staff
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-11**] 08:08 PM
   Metronidazole - [**2139-2-13**] 04:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-13**] 06:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Protonix, Peridex, Phoslo, EPO
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-13**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.3
C (95.5
   HR: 85 (68 - 97) bpm
   BP: 141/62(82) {103/38(58) - 147/92(106)} mmHg
   RR: 18 (0 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 10 (7 - 17)mmHg
   Total In:
                                                                  1,562 mL
                                                                    585 mL
   PO:
   TF:
                                                                    212 mL
                                                                    326 mL
   IVF:
                                                                    865 mL
                                                                    259 mL
   Blood products:
                                                                    285 mL
   Total out:
                                                                    495 mL
                                                                    415 mL
   Urine:
                                                                    345 mL
                                                                    215 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  1,067 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bilat)
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   42 K/uL
   93 mg/dL
   2.2 mg/dL
   18 mEq/L
   3.6 mEq/L
   29 mg/dL
   107 mEq/L
   146 mEq/L
   25.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2139-2-11**]  04:08 PM
                             [**2139-2-12**]  03:23 AM
                             [**2139-2-12**]  05:21 AM
                             [**2139-2-12**]  08:49 AM
                             [**2139-2-12**]  01:29 PM
                             [**2139-2-12**]  07:10 PM
                             [**2139-2-13**]  04:14 AM
   WBC
   8.4
   6.3
   7.4
   Hct
   28.8
   21.9
   21.5
   25.0
   23.6
   25.7
   Plt
   45
   39
   42
   Cr
   2.1
   2.2
   2.2
   TCO2
   21
   Glucose
   195
   70
   93
   Other labs: PT / PTT / INR:12.8/33.8/1.1, ALT / AST:17/19, Alk Phos / T
   Bili:117/0.2, Differential-Neuts:84.1 %, Band:0.0 %, Lymph:12.2 %,
   Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL, Fibrinogen:295 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.3 g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.1 mg/dL
   Fluid analysis / Other labs: HIT- pending
   Vanco trough- pending
   Microbiology: OSH blood- NGTD
   OSH Urine- Pseudomonas
   OSH Sputum- pending
   [**2-11**] Urine- yeast
   [**2-11**] Sputum, Blood pending
   Assessment and Plan
   POSSIBLE SEPSIS- hemodynamically stable since admission. Renal fxn at
   baseline albeit oliguric. Mental status limited but unclear if related
   primarily to sepsis at this point.
   -cont empiric ABX for now and f/u both OSH and from this admission
   -poss sources include GU
   RESPIRATORY FAILURE- both hypoxemic and related to obtundation. Now
   with evidence of pulm edema and pleural effusions. RUL infiltrate on CT
   Chest
   -pt w/ spont rate; could trial PSV today. No plans to extubate given
   obtundation
   -cont  ABX as above
   -consider diuresis if Hct stable, remains hemodynamically stable
   -pulm toilet, HOB up, mouth care
   ALTERED MS- Most likely multifactorial. Low index of suspicion for
   bacterial meningitis. OSH MRI not consistent with Herpes. Poss
   contribution of uremia per Renal
   -repeat head CT neg
   -EEG given repetitive movements
   -Supportive Rx at present.
   -Judicious sedation. Avoid benzos. --> may take some time for OSH benzo
   admin to wear off
   -RRT per Renal svce
   THROMBOPENIA- progressive. Thought at OSH to be related to Unasyn tx.
   HIT at OSH was negative. ? persistent med effect (beta lactam, vanco)
   -smear and DIC panel negative
   -poss Heme c/s
   ANEMIA- Hct drop this am but no clinical signs of overt bleeding. Prob
   component of renal dysfxn-related plt dysfxn
   -ddAVP today, followed by plt trx to goal >50k
   -given low plts monitor for occult RP bleed, subcut bleed --> CT a/p to
   eval
   -monitor clinical picture, serial Hcts
   ISOLATED ELEVATED PTT- mixing studies, APLA studies pending
   SEVERE MALNUTRITION- per family longstanding poor nutrition
   -Nutrition to see
   ACUTE ON CHRONIC RENAL FAILURE- Will consult renal to follow with us
   -cont Epo for ACD, Phos binders
   [**Name8 (MD) **] RRT per Renal svce
   GOALS OF CARE- grave prognosis, already discussed w/ family yest. Will
   continue to re-address. Now DNR.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-2-12**] 04:56 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2139-2-11**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2139-02-13 11:10:00 Physician Resident Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received ddAVP yest. ? sz activity (fluttering eyelid and eye
   twitching) noted by overnight RN staff
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-11**] 08:08 PM
   Metronidazole - [**2139-2-13**] 04:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-13**] 06:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Protonix, Peridex, Phoslo, EPO
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-13**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.3
C (95.5
   HR: 85 (68 - 97) bpm
   BP: 141/62(82) {103/38(58) - 147/92(106)} mmHg
   RR: 18 (0 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 10 (7 - 17)mmHg
   Total In:
                                                                  1,562 mL
                                                                    585 mL
   PO:
   TF:
                                                                    212 mL
                                                                    326 mL
   IVF:
                                                                    865 mL
                                                                    259 mL
   Blood products:
                                                                    285 mL
   Total out:
                                                                    495 mL
                                                                    415 mL
   Urine:
                                                                    345 mL
                                                                    215 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  1,067 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bilat)
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   42 K/uL
   93 mg/dL
   2.2 mg/dL
   18 mEq/L
   3.6 mEq/L
   29 mg/dL
   107 mEq/L
   146 mEq/L
   25.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2139-2-11**]  04:08 PM
                             [**2139-2-12**]  03:23 AM
                             [**2139-2-12**]  05:21 AM
                             [**2139-2-12**]  08:49 AM
                             [**2139-2-12**]  01:29 PM
                             [**2139-2-12**]  07:10 PM
                             [**2139-2-13**]  04:14 AM
   WBC
   8.4
   6.3
   7.4
   Hct
   28.8
   21.9
   21.5
   25.0
   23.6
   25.7
   Plt
   45
   39
   42
   Cr
   2.1
   2.2
   2.2
   TCO2
   21
   Glucose
   195
   70
   93
   Other labs: PT / PTT / INR:12.8/33.8/1.1, ALT / AST:17/19, Alk Phos / T
   Bili:117/0.2, Differential-Neuts:84.1 %, Band:0.0 %, Lymph:12.2 %,
   Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL, Fibrinogen:295 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.3 g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.1 mg/dL
   Fluid analysis / Other labs: HIT- pending
   Vanco trough- pending
   Microbiology: OSH blood- NGTD
   OSH Urine- Pseudomonas
   OSH Sputum- pending
   [**2-11**] Urine- yeast
   [**2-11**] Sputum, Blood pending
   Assessment and Plan
   Assessment: 75 year old female with history of recurrent drug-resistant
   UTIs, ESRD, CAD, HTN and chronic stasis dermatitis/cellulitis who is
   admitted from an OSH with altered mental status, hypothermia and
   presumed sepsis.
   # UTI/ Presumed sepsis: Likely sources are sputum growing GPCs, urine
   culture growing pseudomonas (though less than 100,000 colonies), all at
   OSH.  [**Last Name (un) **] stim done at OSH, >9 point increase in cortisol level. DIC
   panel negative
   - PICC line, triple lumen in place from OSH- needs to be replaced or
   moved centrally via fluoroscopy
   - IV fluids to goal CVP 8-12 off PICC, check ScVO2
   - Transfuse for Hct > 25, checking q6 hematocrits
   - Broad spectrum abx including vanc, zosyn, flagyl
 for coverage of
   known pseudomasl UTI (zosyn) and vanc for GPC
s, flagyl for empiric C.
   diff coverage
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count, fever curve
   - Patient is followed as outpatient by Dr. [**First Name (STitle) 7384**] (ID)
 will contact
   # AMS: Appears to be improving, eyes intermittently open though she
   does not open eyes to command, but withdraws from pain. Had Neuro
   consult at OSH, ruled out myxedema given thyroid disease, MRI
   unremarkable.  CT head negative for bleed.  Renal consult believes
   uremia could be the cause- patient is to be dialyzed today after line
   placement with IR, so will assess response. Most likely
   multifactorial.  Low index of suspician for CNS infection given
   presentation and imaging, no LP for now.  Other causes could include
   sub-clinical seizure.
   - Continue to follow mental status
   - Will obtain EEG to rule out seizure activity
   - Hemodialysis today after catheter placement by IR.
   - Avoid sedating meds if possible
   - Consider Haldol prn agitation, propofol if sedation needed
   #Hypernatremia: 146 this morning. Likely secondary to large amounts of
   saline given IV
   - Increase free water boluses to 250 mL q8 hours
   - trend
   # Stage V CKD: Followed by transplant surgery as outpatient.  Had plan
   for AVF placement on [**1-7**] but postponed due to recurrent
   UTI/urosepsis.  Has not needed urgent HD to date.   Per renal c/s,
   possible cause of AMS is uremia, plan as above.
   - To IR for HD tunneled catheter placement today
   - Hemodialysis following tunneled catheter placement
   - Renally dose all meds, follow vanc level. Vanco trough to be drawn
   tomorrow AM
   - Continue outpatient meds including phoslo, epo (will clarify dose).
   Will hold on iron supplementation as NPO for now.
   # Thrombocytopenia: 42 this morning, up from 39.  Unclear [**Name2 (NI) 7385**].
   Admit platelet count to OSH was within normal limits, HIT ab negative.
   Likely medication induced versus critical illness effect. DDAVP given
   with minimal effect, but not dropping
   - Will need to transfuse platelets if required for line placement
   - Send smear
   - If continues to fall, will call heme consult
   # Neck fullness: CT shows no hemorrhage or focal fluid collection. [**Month (only) 60**]
   be edema from prior thyroid surgery or normal body habitus, as CT read
   shows soft fat with mild stranding.
   # PTT coagulopathy: Resolving. Current PTT of 33.8 is reduced from 41.4
   ( >100 on admission).  Got FFP at OSH several days ago.
   - APLA, lupus anticoagulant pending
   - mixing studies to rule out acquired factor deficiency pending
   - Continue to trend
   # Anemia: Hct stable this morning at 25.  Had drop in hematocrit from
   28--
21, unclear cause. No obvious source of bleed. ?GI bleed due to
   Guiac positive stool, though no frank blood in ileostomy bag or on
   other sources of bleeding. Chronic, macrocytic, due to ESRD and B12
   deficiency. Baseline around 25.  No GI c/s for now as hct stable.
   - Received 1 unit PRBC [**2-12**] with appropriate bump
   - Serial hematocrits q6 hours with goal > 25
   - Continue procrit q Sunday
   - Maintain active T&S
   - B12 injections Q month
   - Holding iron supplementation as above
   # Bradycardia:  None since admission.  History of CAD, no MI, last ECHO
   [**2138-3-7**].  Has low voltage on ECG from OSH  as well, and given
   low albumin, concerning for pericardial effusion. Echo on [**2138-2-11**] shows
   LVEF of 55%.
   - Continue to follow
   # Chronic cellulitis/venous insufficiency: Appreciate wound care
   recommendations. Will keep legs elevated, turn and reposition every [**2-6**]
   hours, keep heels off bed, and keep legs moisturized and clean.
   # Hypertension: Hold antihypertensives for now given
   sepsis/hypotension. Not currently on pressors.  BP
s have been
   110-120
s systolic.
   # UC s/p colectomy with ileostomy: Ostomy care
   # FEN: Appreciate nutrition consult.  Will give tube feedings
   (Novasource Renal diet with 15g beneprotein at 10mL/hr, increased by
   10mL/hr to 30mL/hr x24 hours).
   -Will check residuals- feedings to be held if residuals > 150 mL.
   - If transitioned to TPN, will start regular TPN protocol and check
   triglycerides.Can consider TPN given IBD and watery diarrhea. IVF as
   above to maintain MAP and UOP. Replete lytes prn.
   # Access: Triple lumen PICC. Not currently centrally located.
   # PPx: Holding DVT ppx given lower extremity skin breakdown and low
   platelets, PPI, VAP ppx, HOB > 30 degrees
   .
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-2-12**] 04:56 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2139-2-11**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2139-02-14 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2139-2-13**] 05:04 PM
   triple lumen PICC, able to transduce CVP from purple port
 PICC LINE - START [**2139-2-13**] 07:14 PM
 TUNNELED (HICKMAN) LINE - START [**2139-2-13**] 07:15 PM
   - HD line placed
   - HD done
   - hct stable (25--->26)
   - EEG not done
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-11**] 08:08 PM
   Metronidazole - [**2139-2-14**] 04:17 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-14**] 05:47 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-14**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 84 (75 - 107) bpm
   BP: 110/41(58) {109/41(58) - 149/83(97)} mmHg
   RR: 20 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  1,846 mL
                                                                    540 mL
   PO:
   TF:
                                                                    365 mL
   IVF:
                                                                    690 mL
                                                                    290 mL
   Blood products:
                                                                    291 mL
   Total out:
                                                                  1,140 mL
                                                                    560 mL
   Urine:
                                                                    440 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    706 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 100%
   ABG: ///21/
   Ve: 8.2 L/min
   Physical Examination
   General: NAD, intubated.
   HEENT: NC/AT. Crusted blood noted in right nostril, packed with gauze.
   Heterogeneous mass noted in neck, unchanged since yesterday.
   CV: RRR, normal S1 and S2. No murmurs, rubs, or gallops
   Lungs: Coarse rhonchi noted throughout. Expiratory wheezes noted
   bilaterally.
   Abdomen: Soft, nondistended, no masses. Ileostomy tube draining black
   fluid.
   Extremities: warm with 2+ edema bilaterally. Icthyosis and multiple
   ecchymoses noted.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: 1+), (Left DP pulse: 1+)
   Skin:  Multiple ecchymoses noted in all extremities and in abdomen.
   Rash noted on right lower thigh, unchanged since yesterday.
   Neurologic: Opens eyes spontaneously. Responds to: Withdraws from pain,
   Movement: Moves without purpose. GCS = 9. Tone: Not able to be assessed
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   8.0 g/dL
   123 mg/dL
   1.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   19 mg/dL
   107 mEq/L
   145 mEq/L
   23.7 %
   8.4 K/uL
        [image002.jpg]
                             [**2139-2-12**]  05:21 AM
                             [**2139-2-12**]  08:49 AM
                             [**2139-2-12**]  01:29 PM
                             [**2139-2-12**]  07:10 PM
                             [**2139-2-13**]  04:14 AM
                             [**2139-2-13**]  12:13 PM
                             [**2139-2-13**]  05:42 PM
                             [**2139-2-13**]  07:35 PM
                             [**2139-2-13**]  08:38 PM
                             [**2139-2-14**]  04:01 AM
   WBC
   7.4
   8.4
   Hct
   21.5
   25.0
   23.6
   25.7
   26.1
   22.7
   25.6
   23.7
   Plt
   42
   49
   42
   Cr
   2.2
   2.0
   1.6
   TCO2
   21
   Glucose
   93
   99
   123
   Other labs: PT / PTT / INR:13.6/38.6/1.2, ALT / AST:17/19, Alk Phos / T
   Bili:117/0.2, Differential-Neuts:84.1 %, Band:0.0 %, Lymph:12.2 %,
   Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL, Fibrinogen:295 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.3 g/dL, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 URINARY TRACT INFECTION (UTI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, CHRONIC
 MALNUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment: 75 year old female with history of recurrent drug-resistant
   UTIs, ESRD, CAD, HTN and chronic stasis dermatitis/cellulitis who is
   admitted from an OSH with altered mental status, hypothermia and
   presumed sepsis.
   # UTI/ Presumed sepsis: Likely sources are sputum growing GPCs, urine
   culture growing pseudomonas (though less than 100,000 colonies), all at
   OSH.  [**Last Name (un) **] stim done at OSH, >9 point increase in cortisol level. DIC
   panel negative
   - PICC line, triple lumen in place from OSH- needs to be replaced or
   moved centrally via fluoroscopy
   - IV fluids to goal CVP 8-12 off PICC, check ScVO2
   - Transfuse for Hct > 25, checking q6 hematocrits
   - Broad spectrum abx including vanc, zosyn, flagyl
 for coverage of
   known pseudomasl UTI (zosyn) and vanc for GPC
s, flagyl for empiric C.
   diff coverage
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count, fever curve
   - Patient is followed as outpatient by Dr. [**First Name (STitle) 7384**] (ID)
 will contact
   # AMS: Appears to be improving, eyes intermittently open though she
   does not open eyes to command, but withdraws from pain. Had Neuro
   consult at OSH, ruled out myxedema given thyroid disease, MRI
   unremarkable.  CT head negative for bleed.  Renal consult believes
   uremia could be the cause- patient is to be dialyzed today after line
   placement with IR, so will assess response. Most likely
   multifactorial.  Low index of suspician for CNS infection given
   presentation and imaging, no LP for now.  Other causes could include
   sub-clinical seizure.
   - Continue to follow mental status
   - Will obtain EEG to rule out seizure activity
   - Hemodialysis today after catheter placement by IR.
   - Avoid sedating meds if possible
   - Consider Haldol prn agitation, propofol if sedation needed
   #Hypernatremia: 146 this morning. Likely secondary to large amounts of
   saline given IV
   - Increase free water boluses to 250 mL q8 hours
   - trend
   # Stage V CKD: Followed by transplant surgery as outpatient.  Had plan
   for AVF placement on [**1-7**] but postponed due to recurrent
   UTI/urosepsis.  Has not needed urgent HD to date.   Per renal c/s,
   possible cause of AMS is uremia, plan as above.
   - To IR for HD tunneled catheter placement today
   - Hemodialysis following tunneled catheter placement
   - Renally dose all meds, follow vanc level. Vanco trough to be drawn
   tomorrow AM
   - Continue outpatient meds including phoslo, epo (will clarify dose).
   Will hold on iron supplementation as NPO for now.
   # Thrombocytopenia: 42 this morning, up from 39.  Unclear [**Name2 (NI) 7385**].
   Admit platelet count to OSH was within normal limits, HIT ab negative.
   Likely medication induced versus critical illness effect. DDAVP given
   with minimal effect, but not dropping
   - Will need to transfuse platelets if required for line placement
   - Send smear
   - If continues to fall, will call heme consult
   # Neck fullness: CT shows no hemorrhage or focal fluid collection. [**Month (only) 60**]
   be edema from prior thyroid surgery or normal body habitus, as CT read
   shows soft fat with mild stranding.
   # PTT coagulopathy: Resolving. Current PTT of 33.8 is reduced from 41.4
   ( >100 on admission).  Got FFP at OSH several days ago.
   - APLA, lupus anticoagulant pending
   - mixing studies to rule out acquired factor deficiency pending
   - Continue to trend
   # Anemia: Hct stable this morning at 25.  Had drop in hematocrit from
   28--
21, unclear cause. No obvious source of bleed. ?GI bleed due to
   Guiac positive stool, though no frank blood in ileostomy bag or on
   other sources of bleeding. Chronic, macrocytic, due to ESRD and B12
   deficiency. Baseline around 25.  No GI c/s for now as hct stable.
   - Received 1 unit PRBC [**2-12**] with appropriate bump
   - Serial hematocrits q6 hours with goal > 25
   - Continue procrit q Sunday
   - Maintain active T&S
   - B12 injections Q month
   - Holding iron supplementation as above
   # Bradycardia:  None since admission.  History of CAD, no MI, last ECHO
   [**2138-3-7**].  Has low voltage on ECG from OSH  as well, and given
   low albumin, concerning for pericardial effusion. Echo on [**2138-2-11**] shows
   LVEF of 55%.
   - Continue to follow
   # Chronic cellulitis/venous insufficiency: Appreciate wound care
   recommendations. Will keep legs elevated, turn and reposition every [**2-6**]
   hours, keep heels off bed, and keep legs moisturized and clean.
   # Hypertension: Hold antihypertensives for now given
   sepsis/hypotension. Not currently on pressors.  BP
s have been
   110-120
s systolic.
   # UC s/p colectomy with ileostomy: Ostomy care
   # FEN: Appreciate nutrition consult.  Will give tube feedings
   (Novasource Renal diet with 15g beneprotein at 10mL/hr, increased by
   10mL/hr to 30mL/hr x24 hours).
   -Will check residuals- feedings to be held if residuals > 150 mL.
   - If transitioned to TPN, will start regular TPN protocol and check
   triglycerides.Can consider TPN given IBD and watery diarrhea. IVF as
   above to maintain MAP and UOP. Replete lytes prn.
   # Access: Triple lumen PICC. Not currently centrally located.
   # PPx: Holding DVT ppx given lower extremity skin breakdown and low
   platelets, PPI, VAP ppx, HOB > 30 degrees
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-2-13**] 07:14 PM
   Tunneled (Hickman) Line - [**2139-2-13**] 07:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2139-02-14 13:02:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, UTI, chronic renal failure,
   acute respiratory failiure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had dialysis yesterday.
   Hemodynamically stable.
   Agitated with stimulation, but not purposeful. Head CT negative.
   24 Hour Events:
 PICC LINE - STOP [**2139-2-13**] 05:04 PM
   triple lumen PICC, able to transduce CVP from purple port
 PICC LINE - START [**2139-2-13**] 07:14 PM
 TUNNELED (HICKMAN) LINE - START [**2139-2-13**] 07:15 PM
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Vancomycin - [**2139-2-11**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-14**] 05:47 AM
   Metronidazole - [**2139-2-14**] 12:13 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   chlorhexidine,epo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-14**] 01:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 60 (60 - 107) bpm
   BP: 98/44(57) {98/41(57) - 149/83(97)} mmHg
   RR: 19 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,846 mL
                                                                    949 mL
   PO:
             TF:
                                                                    365 mL
   IVF:
                                                                    690 mL
                                                                    449 mL
   Blood products:
                                                                    291 mL
   Total out:
                                                                  1,140 mL
                                                                    860 mL
   Urine:
                                                                    440 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    706 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 100%
   ABG: ///21/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, ostomy
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: erthyma of lower legs
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   42 K/uL
   123 mg/dL
   1.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   19 mg/dL
   107 mEq/L
   145 mEq/L
   24.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2139-2-12**]  08:49 AM
                             [**2139-2-12**]  01:29 PM
                             [**2139-2-12**]  07:10 PM
                             [**2139-2-13**]  04:14 AM
                             [**2139-2-13**]  12:13 PM
                             [**2139-2-13**]  05:42 PM
                             [**2139-2-13**]  07:35 PM
                             [**2139-2-13**]  08:38 PM
                             [**2139-2-14**]  04:01 AM
                             [**2139-2-14**]  10:49 AM
   WBC
   7.4
   8.4
   Hct
   25.0
   23.6
   25.7
   26.1
   22.7
   25.6
   23.7
   24.0
   Plt
   42
   49
   42
   Cr
   2.2
   2.0
   1.6
   TCO2
   21
   Glucose
   93
   99
   123
   Other labs: PT / PTT / INR:13.6/38.6/1.2, ALT / AST:17/19, Alk Phos / T
   Bili:117/0.2, Differential-Neuts:84.1 %, Band:0.0 %, Lymph:12.2 %,
   Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL, Fibrinogen:295 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.3 g/dL, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.4 mg/dL
   Imaging: Chest CT: large bilateral pleural effusions. Compressive
   atelectasis LLL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 URINARY TRACT INFECTION (UTI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, CHRONIC
 MALNUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Patient remains unresponsive, but on small amount of versed. I would
   stop the Versed and use propofol if needed for agitation so we can
   assess mental status off of sedation several times a day. Head CT was
   negative. Would obtain a neuro consult and EEG to assess for possible
   non motor seizures.
   Patien with excellent oxygenation on 35% FIO2. I have switched her from
   AC to PSV. If patient tolerates this well, not clear she needs
   mechanical ventilation. PEEP reduced from 10 to 5. If patient tolerates
   PSV, will need to determine if she can come off the vent. If she is
   felt to need airway protection, I would argue for a trach to enable her
   to be off the ventilator rather than keep the ETT in place (reduce risk
   of vent associated pneumonia). Patient getting dialysis to remove fluid
   and to see if elevated BUN is contributing to altered mental status.
   Given the level of BUN, I doubt uremia is playing a major role. Removal
   of fluid may help reduce the effusions. If not much progress made
   there, may need thoracentesis on left where there is significant
   compression atelectasis.
   Patient had dialysis yesterday and due for another episode today.
   Electrolytes acceptable. Mild metabolic acidosis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-2-13**] 07:14 PM
   Tunneled (Hickman) Line - [**2139-2-13**] 07:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2139-02-15 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
 EEG - At [**2139-2-14**] 01:30 PM
   - Neuro consult recs Ammonium level, work up for TTP (sent for LDH,
   Haptoglobin), LP with extra CSF to send for HSV, repeat Urine culture,
   stool for E.coli 0157:H7 (? HUS-TTP), Amylase, Lipase, LFTs.
   - Vancomycin reordered for HD protocol
   - Pt received HD yesterday
   - Continues on PSV with 35% O2
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Metronidazole - [**2139-2-14**] 07:44 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-14**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-14**] 07:44 PM
   Heparin Sodium (Prophylaxis) - [**2139-2-14**] 07:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-15**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 108 (60 - 110) bpm
   BP: 129/74(79) {98/44(57) - 137/74(90)} mmHg
   RR: 16 (0 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,333 mL
                                                                    115 mL
   PO:
             TF:
   IVF:
                                                                    833 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                         1,775 mL (500 HD)
                                                                     60 mL
   Urine:
                                                                    325 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -442 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 367 (313 - 479) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 10.3 L/min
   Physical Examination
   General: NAD, Intubated. Does not open eyes or respond to verbal
   command. GCS =9
   HEENT: NC/AT. PERLA. No lymphadenopathy. Neck mass unchanged.
   CV: RRR, normal S1 and S2. No murmurs, rubs, or gallops
   Lungs: Bilateral expiratory wheezing. Coarse breath sounds bilaterally
   Abdomen: Soft, nondistended, no masses. Bowel sounds hypoactive.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Multiple eccymoses noted in all extremities
   Neurologic: Responds to: pain. No respondse to commands Movement:
   Spontaneously moves head, Tone: Unable to assess
   Labs / Radiology
   46 K/uL
   8.3 g/dL
   109 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.2 mEq/L
   15 mg/dL
   104 mEq/L
   140 mEq/L
   24.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2139-2-12**]  07:10 PM
                             [**2139-2-13**]  04:14 AM
                             [**2139-2-13**]  12:13 PM
                             [**2139-2-13**]  05:42 PM
                             [**2139-2-13**]  07:35 PM
                             [**2139-2-13**]  08:38 PM
                             [**2139-2-14**]  04:01 AM
                             [**2139-2-14**]  10:49 AM
                             [**2139-2-14**]  04:48 PM
                             [**2139-2-15**]  04:51 AM
   WBC
   7.4
   8.4
   9.8
   Hct
   23.6
   25.7
   26.1
   22.7
   25.6
   23.7
   24.0
   24.6
   24.9
   Plt
   42
   49
   42
   46
   Cr
   2.2
   2.0
   1.6
   1.2
   Glucose
   93
   99
   123
   109
   Other labs: PT / PTT / INR:13.6/37.2/1.2, ALT / AST:13/16, Alk Phos / T
   Bili:120/0.5, Amylase / Lipase:20/9, Differential-Neuts:84.1 %,
   Band:0.0 %, Lymph:12.2 %, Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL,
   Fibrinogen:295 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.1 g/dL, LDH:254
   IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:1.3 mg/dL
   [1][**2139-2-15**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [2][**2139-2-12**]
   STOOL
   FECAL CULTURE-FINAL; CAMPYLOBACTER CULTURE-FINAL; CLOSTRIDIUM DIFFICILE
   TOXIN A & B TEST-FINAL
   INPATIENT
   [3][**2139-2-11**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2139-2-11**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   INPATIENT
   [5][**2139-2-11**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2139-2-11**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan: 75 y/o woman with multiple medical problems
   including chronic UTI/possible urosepsis with altered mental status and
   Chronic Kidney failure s/p HD initiation, with continued decreased
   mental status.
   #Altered mental status, Likely multifactorial, possibly due to sepsis
   vs. accumulation of toxic metabolites. Thyroid studies are wnl per OSH.
   EEG shows no evidence of seizure activity, but patient is on propofol,
   so will need to re-check after sedation has been weaned. There is also
   a possibility of HSV encephalitis despite the normal EEG (again
   possibly due to sedative effects).
   - Appreciate Neuro consult: TTP workup negative (Haptoglobin 72, LDH is
   254 but this is nonspecific and could be due to tissue hypoxia).
   Ammonia levels WNL
   - Obtained EEG- No seizure activity as noted above. Will avoid
   sedatives and repeat if necessary
   - Avoid benzodiazepines and other sedatives. Will use Haldol or
   propofol PRN agitation. Should wean sedation for accurate exam per
   neurology consult
   - Will obtain LP to check for HSV and begin acyclovir if appropriate.
   Will transfuse platelets prior to procedure- see below.
   #Urosepsis/PNA: Patient has chronic UTI at baseline. Final culture data
   from OSH shows sputum growing yeast but no GPC, urine growing
   Pseudomonas sensitive to Zosyn and ceftazidime, Blood culture negative.
   -Will continue Zosyn, and Flagyl tx pending culture and sensitivity
   data. [**Month (only) 60**] be able to discontinue vancomycin because no GPC growth was
   found on sputum culture @ OSH. Zosyn for Pseudomonas + urine Cx @ OSH.
   Continue PO Flagyl for empiric coverage. In-house Blood, urine, and
   sputum Cx pending. Fecal culture negative for campylobacter. Stool C.
   Diff toxin negative.
   -Goal MAP > 65 and UOP >30 mL/hr. Will give Levophed/IVF boluses to
   maintain
   -Maintain triple lumen catheter, can obtain CVP
   #Acute Respiratory Failure: Day 5 of intubation. Patient was intubated
   due to increased O2 requirements at outside hospital after she was
   found obtunded. Since patient is on PSV now with regular respirations
   and oxygen saturation of 98-99% on 35% O2, (RSBI =83), weaning is
   appropriate. Patient may require tracheostomy to meet respiratory
   requirements in order to reduce the risk of VAP.
   - Discussion with family regarding the risks and benefits of
   tracheostomy. Family amenable to tracheostomy should need arise.
   #Bradycardia
   -Hx CAD. Likely secondary to hypothermia. Has resolved. Will continue
   to monitor via telemetry.
   #Stage V Chronic Kidney Disease: Unclear etiology. Stable s/p first
   hemodialysis.
   - Patient received dialysis yesterday: Lytes post-dialysis: Na- 140, K-
   3.2, Cl- 104, HCO3- 24, BUN-15, Cr- 1.2
   - K will increase due to renal failure. Will give potassium phosphate
   30 mmol x1 dose per Renal recommendations.
   - Renal dosage of medications
   - Continue home regimen of phosphate binders
   - Next dialysis Monday [**2-16**]
   - Vancomycin trough is slightly elevated at 23.4. Obtain vancomycin
   troughs q 48 hours prior to dialysis and adjust dose as necessary.
   #Thrombocytopenia: Platelets stable at 46 this morning, Likely
   secondary to renal failure.
   -TTP workup per Neuro consult: Haptoglobin normal at 72. Ammonia 16
   - Will transfuse 1 unit platelets prior to LP
   -Anti-PF4 negative on [**2-5**] so HIT unlikely
   -Continue Procrit injections. Next injection today [**2-15**]
   -Mixing study to determine inhibitor vs. factor deficiency pending
   -Antiphospholipid antibody study pending
   #Anemia: Likely secondary to previous GI bleed and chronic renal
   failure. Serial hematocrits have been stable around 25.
   - Continue to monitor hematocrit q day
   - Erythropoietin today
   - B12 injections q month
   - Holding iron supplementation
   #LE cellulitis
   -Chronic condition- Appreciate wound care consult and will continue
   wound care protocol including elevation of legs, heels off bed and skin
   care.
   #HTN
   - Continue to hold antihypertensives
   - Pressors if necessary.
   #Ulcerative colitis: Chronic condition. Stable for now.
   -Ostomy care.
   #FEN
   -Appreciate Nutrition consult. Will continue tube feeds with NovaSource
   15g beneprotein at 30mL/hr
   -No fluids for now.
   PPx
   -PPI, VAP, HOB up, Heparin 5000 U SC BID.
   Code Status: DNR, pt. is intubated.
   ICU Care
   Nutrition: Tube feeds. NovaSource Renal diet 15g beneprotein at
   30mL/hr.
   Glycemic Control:   Well-controlled
   Lines:
   PICC Line - [**2139-2-13**] 07:14 PM
   Tunneled (Hickman) Line - [**2139-2-13**] 07:15 PM
   Prophylaxis:
   DVT: Heparin 5000 units SC BID
   Stress ulcer: PPI
   VAP:  HOB > 30
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: ICU
    [**First Name8 (NamePattern2) 3080**] [**Last Name (NamePattern1) 7391**] (MS4) Pager [**Numeric Identifier 7392**]
   I agree with the above excellent MS4 note.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);

2139-02-15 11:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, chronic renal failure, altered
   mental status, pneumonia, anemia, thrombocytopnia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hemodialysis yesterday. AFebrile.
   Continues on PSV 5/5. Oxygenation adequate on 35% oxygen.
   24 Hour Events:
 EEG - At [**2139-2-14**] 01:30 PM
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Metronidazole - [**2139-2-15**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-15**] 07:00 AM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-14**] 07:44 PM
   Heparin Sodium (Prophylaxis) - [**2139-2-15**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-15**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 99 (60 - 110) bpm
   BP: 122/66(79) {98/44(57) - 137/74(90)} mmHg
   RR: 18 (0 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,583 mL
                                                                    518 mL
   PO:
             TF:
   IVF:
                                                                    833 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                     60 mL
   Urine:
                                                                    325 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -192 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 377 (313 - 479) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Oriented (to): Unable to assess on sedation,
   Movement: Non -purposeful, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   46 K/uL
   109 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.2 mEq/L
   15 mg/dL
   104 mEq/L
   140 mEq/L
   24.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2139-2-12**]  07:10 PM
                             [**2139-2-13**]  04:14 AM
                             [**2139-2-13**]  12:13 PM
                             [**2139-2-13**]  05:42 PM
                             [**2139-2-13**]  07:35 PM
                             [**2139-2-13**]  08:38 PM
                             [**2139-2-14**]  04:01 AM
                             [**2139-2-14**]  10:49 AM
                             [**2139-2-14**]  04:48 PM
                             [**2139-2-15**]  04:51 AM
   WBC
   7.4
   8.4
   9.8
   Hct
   23.6
   25.7
   26.1
   22.7
   25.6
   23.7
   24.0
   24.6
   24.9
   Plt
   42
   49
   42
   46
   Cr
   2.2
   2.0
   1.6
   1.2
   Glucose
   93
   99
   123
   109
   Other labs: PT / PTT / INR:13.6/37.2/1.2, ALT / AST:13/16, Alk Phos / T
   Bili:120/0.5, Amylase / Lipase:20/9, Differential-Neuts:84.1 %,
   Band:0.0 %, Lymph:12.2 %, Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL,
   Fibrinogen:295 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.1 g/dL, LDH:254
   IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:1.3 mg/dL
   Imaging: CXR: problable bilateral plerual effusions with increased
   interstitial markings and UZRD. No significant change.
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 URINARY TRACT INFECTION (UTI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, CHRONIC
 MALNUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Although neuro raised issue of TTP, there is no evidence of hemolysis
   at this time and the renal failure is chronic, not acute. Patient had
   well documented Urinary tract infection, which is unlikely to have
   seeded CSF.
   Patient dialysed yesterday. Due for repeat dialysis tomorrow. Potassium
   being repleted.
   Hct and platelet count stable. No evidence of bleeding. Not at
   transfusion threshold, but if LP entertained, will need platelet
   transfusion prior to LP.
   Patient on minimal ventilatory support. At this point, the ETT is place
   for suctioning and because of concern about her ability to protect her
   airway. I suspect she does not need the ventilator and we are being
   forced to keep her sedated because of it. I suggest a discussion with
   the family about either extubation and possible reintubation if she is
   unable ot handle her secretions, or go straight to a trach to allow us
   to maintain access to the lower airways.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2139-2-13**] 07:14 PM
   Tunneled (Hickman) Line - [**2139-2-13**] 07:15 PM
   Dialysis Catheter - [**2139-2-15**] 08:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2139-02-16 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
 DIALYSIS CATHETER - START [**2139-2-15**] 08:12 AM
   already in place
 LUMBAR PUNCTURE - At [**2139-2-15**] 06:26 PM
   - Patient received one unit of FFP so that a LP could be done today.
   - EEG was normal, neuro recs repeating it once she is off sedation.
   Also rec'ed restarting acyclovir and doing the LP.
   - Renal recommends continuing empiric HD.
   - Family agreeable to trach placement in the next few days if
   necessary.
   - LP showed clear fluid, opening pressure 19 cm H2O, WBC of 3, RBC of
   1, protein of 28 and glucose of 67.  Cx and viral studies pending.
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-15**] 10:36 PM
   Metronidazole - [**2139-2-16**] 04:00 AM
   Infusions:
   Propofol - 6 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-2-15**] 10:35 PM
   Pantoprazole (Protonix) - [**2139-2-16**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-16**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.2
C (97.1
   HR: 103 (81 - 121) bpm
   BP: 127/71(85) {92/40(53) - 149/90(104)} mmHg
   RR: 23 (0 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,524 mL
                                                                    176 mL
   PO:
             TF:
   IVF:
                                                                  1,327 mL
                                                                    176 mL
   Blood products:
                                                                    197 mL
   Total out:
                                                                    168 mL
                                                                    195 mL
   Urine:
                                                                    168 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,356 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (334 - 501) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 107
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///21/
   Ve: 9.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   53 K/uL
   8.0 g/dL
   106 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.6 mEq/L
   21 mg/dL
   103 mEq/L
   137 mEq/L
   22.9 %
   12.3 K/uL
        [image002.jpg]
                             [**2139-2-13**]  12:13 PM
                             [**2139-2-13**]  05:42 PM
                             [**2139-2-13**]  07:35 PM
                             [**2139-2-13**]  08:38 PM
                             [**2139-2-14**]  04:01 AM
                             [**2139-2-14**]  10:49 AM
                             [**2139-2-14**]  04:48 PM
                             [**2139-2-15**]  04:51 AM
                             [**2139-2-15**]  03:17 PM
                             [**2139-2-16**]  03:17 AM
   WBC
   8.4
   9.8
   12.3
   Hct
   26.1
   22.7
   25.6
   23.7
   24.0
   24.6
   24.9
   22.9
   Plt
   49
   42
   46
   53
   53
   Cr
   2.0
   1.6
   1.2
   1.5
   Glucose
   99
   123
   109
   106
   Other labs: PT / PTT / INR:13.3/43.4/1.1, ALT / AST:13/19, Alk Phos / T
   Bili:136/0.4, Amylase / Lipase:20/9, Differential-Neuts:84.1 %,
   Band:0.0 %, Lymph:12.2 %, Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL,
   Fibrinogen:295 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:283
   IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 URINARY TRACT INFECTION (UTI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, CHRONIC
 MALNUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   75 y/o woman with multiple medical problems including chronic
   UTI/possible urosepsis with altered mental status and Chronic Kidney
   failure s/p HD initiation, with continued decreased mental status.
   #Altered mental status, Likely multifactorial, possibly due to sepsis
   vs. accumulation of toxic metabolites. Thyroid studies are wnl per OSH.
   EEG shows no evidence of seizure activity, but patient is on propofol,
   so will need to re-check after sedation has been weaned. There is also
   a possibility of HSV encephalitis despite the normal EEG (again
   possibly due to sedative effects).
   - Appreciate Neuro consult: TTP workup negative (Haptoglobin 72, LDH is
   254 but this is nonspecific and could be due to tissue hypoxia).
   Ammonia levels WNL
   - Obtained EEG- No seizure activity as noted above. Will avoid
   sedatives and repeat if necessary
   - Avoid benzodiazepines and other sedatives. Will use Haldol or
   propofol PRN agitation. Should wean sedation for accurate exam per
   neurology consult
   - Will obtain LP to check for HSV and begin acyclovir if appropriate.
   Will transfuse platelets prior to procedure- see below.
   #Urosepsis/PNA: Patient has chronic UTI at baseline. Final culture data
   from OSH shows sputum growing yeast but no GPC, urine growing
   Pseudomonas sensitive to Zosyn and ceftazidime, Blood culture negative.
   -Will continue Zosyn, and Flagyl tx pending culture and sensitivity
   data. [**Month (only) 60**] be able to discontinue vancomycin because no GPC growth was
   found on sputum culture @ OSH. Zosyn for Pseudomonas + urine Cx @ OSH.
   Continue PO Flagyl for empiric coverage. In-house Blood, urine, and
   sputum Cx pending. Fecal culture negative for campylobacter. Stool C.
   Diff toxin negative.
   -Goal MAP > 65 and UOP >30 mL/hr. Will give Levophed/IVF boluses to
   maintain
   -Maintain triple lumen catheter, can obtain CVP
   #Acute Respiratory Failure: Day 5 of intubation. Patient was intubated
   due to increased O2 requirements at outside hospital after she was
   found obtunded. Since patient is on PSV now with regular respirations
   and oxygen saturation of 98-99% on 35% O2, (RSBI =83), weaning is
   appropriate. Patient may require tracheostomy to meet respiratory
   requirements in order to reduce the risk of VAP.
   - Discussion with family regarding the risks and benefits of
   tracheostomy. Family amenable to tracheostomy should need arise.
   #Bradycardia
   -Hx CAD. Likely secondary to hypothermia. Has resolved. Will continue
   to monitor via telemetry.
   #Stage V Chronic Kidney Disease: Unclear etiology. Stable s/p first
   hemodialysis.
   - Patient received dialysis yesterday: Lytes post-dialysis: Na- 140, K-
   3.2, Cl- 104, HCO3- 24, BUN-15, Cr- 1.2
   - K will increase due to renal failure. Will give potassium phosphate
   30 mmol x1 dose per Renal recommendations.
   - Renal dosage of medications
   - Continue home regimen of phosphate binders
   - Next dialysis Monday [**2-16**]
   - Vancomycin trough is slightly elevated at 23.4. Obtain vancomycin
   troughs q 48 hours prior to dialysis and adjust dose as necessary.
   #Thrombocytopenia: Platelets stable at 46 this morning, Likely
   secondary to renal failure.
   -TTP workup per Neuro consult: Haptoglobin normal at 72. Ammonia 16
   - Will transfuse 1 unit platelets prior to LP
   -Anti-PF4 negative on [**2-5**] so HIT unlikely
   -Continue Procrit injections. Next injection today [**2-15**]
   -Mixing study to determine inhibitor vs. factor deficiency pending
   -Antiphospholipid antibody study pending
    #Anemia: Likely secondary to previous GI bleed and chronic renal
   failure. Serial hematocrits have been stable around 25.
   - Continue to monitor hematocrit q day
   - Erythropoietin today
   - B12 injections q month
   - Holding iron supplementation
    #LE cellulitis
   -Chronic condition- Appreciate wound care consult and will continue
   wound care protocol including elevation of legs, heels off bed and skin
   care.
   #HTN
   - Continue to hold antihypertensives
   - Pressors if necessary.
   #Ulcerative colitis: Chronic condition. Stable for now.
   -Ostomy care.
   #FEN
   -Appreciate Nutrition consult. Will continue tube feeds with NovaSource
   15g beneprotein at 30mL/hr
   -No fluids for now.
    #PPx
   -PPI, VAP, HOB up, Heparin 5000 U SC BID.
   # Code Status: DNR, pt. is intubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-2-13**] 07:14 PM
   Tunneled (Hickman) Line - [**2139-2-13**] 07:15 PM
   Dialysis Catheter - [**2139-2-15**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2139-02-16 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient received one unit of FFP so that a LP could be done today.
   - EEG was normal, neuro recs repeating it once she is off sedation.
   Also rec'ed restarting acyclovir and doing the LP.
   - Renal recommends continuing empiric HD. Next session today
   .
   - Family agreeable to trach placement in the next few days if
   necessary.
   - LP showed clear fluid, opening pressure 19 cm H2O, WBC of 3, RBC of
   1, protein of 28 and glucose of 67.  Cx and viral studies pending.
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-15**] 10:36 PM
   Metronidazole - [**2139-2-16**] 04:00 AM
   Infusions:
   Propofol - 6 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-2-15**] 10:35 PM
   Pantoprazole (Protonix) - [**2139-2-16**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-16**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.2
C (97.1
   HR: 103 (81 - 121) bpm
   BP: 127/71(85) {92/40(53) - 149/90(104)} mmHg
   RR: 23 (0 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,524 mL
                                                                    175 mL
   PO:
             TF:
   IVF:
                                                                  1,327 mL
                                                                    175 mL
   Blood products:
                                                                    197 mL
   Total out:
                                                                    168 mL
                                                                    195 mL
   Urine:
                                                                    168 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,356 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (334 - 501) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 107
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///21/
   Ve: 9.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   53 K/uL
   8.0 g/dL
   106 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.6 mEq/L
   21 mg/dL
   103 mEq/L
   137 mEq/L
   22.9 %
   12.3 K/uL
        [image002.jpg]
                             [**2139-2-13**]  12:13 PM
                             [**2139-2-13**]  05:42 PM
                             [**2139-2-13**]  07:35 PM
                             [**2139-2-13**]  08:38 PM
                             [**2139-2-14**]  04:01 AM
                             [**2139-2-14**]  10:49 AM
                             [**2139-2-14**]  04:48 PM
                             [**2139-2-15**]  04:51 AM
                             [**2139-2-15**]  03:17 PM
                             [**2139-2-16**]  03:17 AM
   WBC
   8.4
   9.8
   12.3
   Hct
   26.1
   22.7
   25.6
   23.7
   24.0
   24.6
   24.9
   22.9
   Plt
   49
   42
   46
   53
   53
   Cr
   2.0
   1.6
   1.2
   1.5
   Glucose
   99
   123
   109
   106
   Other labs: PT / PTT / INR:13.3/43.4/1.1, ALT / AST:13/19, Alk Phos / T
   Bili:136/0.4, Amylase / Lipase:20/9, Differential-Neuts:84.1 %,
   Band:0.0 %, Lymph:12.2 %, Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL,
   Fibrinogen:295 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:283
   IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   LP results:
   Opening pressure 19 cm H2O, WBC 3 (4 polys, 85 lymphs, 4 monos), RBC 1,
   protein of 28 and glucose of 67No cells on gram stain. No cryptococcal
   antigen
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -HD today
 URINARY TRACT INFECTION (UTI)
   - New leukocytosis without fever and unknown source of infection.
   Obtain blood culture, urine culture, sputum cx if possible.
   - Continue Vanco, zosyn, flagyl
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -Family aware of need for trach placement
   - RSBI of 107. Not able to wean vent yet
 THROMBOCYTOPENIA, ACUTE
   - Mininal response to 1 unit FFP
 ANEMIA, CHRONIC
 MALNUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
   -continue wound car
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2139-2-13**] 07:14 PM
   Tunneled (Hickman) Line - [**2139-2-13**] 07:15 PM
   Dialysis Catheter - [**2139-2-15**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2139-02-16 08:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Final Cx data at OSH: BCx neg, Urine Cx: Pseudomonas [**Last Name (un) **] to Zosyn &
   Ceftaz, Sputum Cx shows normal flora and yeast
   - 1 unit of plts given (46-> 53)
   - LP post plt transfusion was successful. Opening pressure 19cmH20.
   Labs: Clear and colorless. Opening P 19cmH20, 3 WBC, 1 RBC, Protein 28,
   Glucose 67. Will not start acyclovir based on these results.
   - Spoke to family regarding possible need for tracheostomy to prevent
   VAP in the future- family is amenable to this intervention.
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-15**] 10:36 PM
   Metronidazole - [**2139-2-16**] 04:00 AM
   Infusions:
   Propofol - 6 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-2-15**] 10:35 PM
   Pantoprazole (Protonix) - [**2139-2-16**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-16**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.2
C (97.1
   HR: 103 (81 - 121) bpm
   BP: 127/71(85) {92/40(53) - 149/90(104)} mmHg
   RR: 23 (0 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,524 mL
                                                                    189 mL
   PO:
             TF:
   IVF:
                                                                  1,327 mL
                                                                    189 mL
   Blood products:
                                                                    197 mL
   Total out:
                                                                    168 mL
                                                                    195 mL
   Urine:
                                                                    168 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,356 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (334 - 501) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 107
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///21/
   Ve: 9.5 L/min
   Physical Examination
   General: NAD, intubated. Opens eyes spontaneously, but does not respond
   to commands. Withdraws from pain.
   HEENT: PERLA. MMM.
   CV: RRR, normal S1 and S2, no murmurs, rubs, or gallops
   Lungs: CTA b/l. No wheezes, rales, rhonchi.
   Abdomen: Soft, nondistended, no masses. Bowel sounds active. Ileostomy
   bag in place draining black fluid as before.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  New area of erythema and warmth along the right forearm.
   Multiple ecchymoses noted over the rest of the body, not significantly
   changed.
   Neurologic: Responds to: pain, Movement: moves head spontaneously,
   Tone: Unable to assess
   Labs / Radiology
   53 K/uL
   8.0 g/dL
   106 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.6 mEq/L
   21 mg/dL
   103 mEq/L
   137 mEq/L
   22.9 %
   12.3 K/uL
        [image002.jpg]
                             [**2139-2-13**]  12:13 PM
                             [**2139-2-13**]  05:42 PM
                             [**2139-2-13**]  07:35 PM
                             [**2139-2-13**]  08:38 PM
                             [**2139-2-14**]  04:01 AM
                             [**2139-2-14**]  10:49 AM
                             [**2139-2-14**]  04:48 PM
                             [**2139-2-15**]  04:51 AM
                             [**2139-2-15**]  03:17 PM
                             [**2139-2-16**]  03:17 AM
   WBC
   8.4
   9.8
   12.3
   Hct
   26.1
   22.7
   25.6
   23.7
   24.0
   24.6
   24.9
   22.9
   Plt
   49
   42
   46
   53
   53
   Cr
   2.0
   1.6
   1.2
   1.5
   Glucose
   99
   123
   109
   106
   Other labs: PT / PTT / INR:13.3/43.4/1.1, ALT / AST:13/19, Alk Phos / T
   Bili:136/0.4, Amylase / Lipase:20/9, Differential-Neuts:84.1 %,
   Band:0.0 %, Lymph:12.2 %, Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL,
   Fibrinogen:295 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:283
   IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   CSF analysis: Clear and colorless fluid, WBC 3 (4 Poly, 85 Lymphs, 11
   Mono), RBC 1, Protein 28, Glucose 67. Gram stain negative, cryptococcal
   antigen negative. HSV PCR pending, VDRL pending
   Assessment and Plan
   75 y/o woman with multiple medical problems including chronic
   UTI/possible urosepsis with altered mental status and Chronic Kidney
   failure s/p HD initiation, with continued decreased mental status.
   #Altered mental status, Likely multifactorial, possibly due to sepsis
   vs. accumulation of toxic metabolites. Thyroid studies are wnl per OSH.
   EEG shows no evidence of seizure activity, but patient is on propofol,
   so will need to re-check after sedation has been weaned. There is also
   a possibility of HSV encephalitis despite the normal EEG (again
   possibly due to sedative effects).
   - LP results (see above) are not concerning for infectious etiology.
   HSV PCR, VDRL pending.
   - Obtained EEG- No seizure activity as noted above. Will avoid
   sedatives and repeat if necessary
   - Avoid benzodiazepines and other sedatives. Will use propofol PRN
   agitation. Should wean sedation for accurate exam per neurology consult
   #Urosepsis/PNA: Patient has chronic UTI at baseline. Final culture data
   from OSH shows sputum growing yeast but no GPC, urine growing
   Pseudomonas sensitive to Zosyn and ceftazidime, Blood culture negative.
   -Will continue Zosyn,
   -Can d/c vancomycin and Flagyl because no organisms were found for
   which these agents treat. Sputum cx negative, C. Diff toxin negative.
   -Goal MAP > 65 and UOP >30 mL/hr. Will give Levophed/IVF boluses to
   maintain
   -Maintain triple lumen catheter, can obtain CVP
   #R arm cellulitis: [**Month (only) 60**] represent irritation due to cuffs, or may be new
   cellulitis. Patient has a slightly elevated WBC count this morning at
   12.3, but patient has been afebrile, no other signs or symptoms of
   infections.
   - Will continue to follow and trend.
   #Acute Respiratory Failure: Day 6 of intubation. Patient was intubated
   due to increased O2 requirements at outside hospital after she was
   found obtunded. Patient is on PSV with RSBI of 107.
   - Will not try to extubate today due to high RSBI.
   - Discussion with family regarding the risks and benefits of
   tracheostomy. Family amenable to tracheostomy should need arise.
   #Stage V Chronic Kidney Disease: Unclear etiology. Stable s/p first
   hemodialysis.
   - Patient received dialysis Saturday: Lytes post-dialysis: Na- 137, K-
   3.6, Cl- 103, HCO3- 21, BUN-21, Cr- 1.5
   - K will increase due to renal failure. Will replete potassium and
   phosphate as necessary.
   - Renal dosage of medications
   - Continue home regimen of phosphate binders
   - Next dialysis today
   - Vancomycin discontinued. No need to measure trough.
   #Thrombocytopenia: Platelets stable at 53 this morning s/p 1 unit given
   prior to LP, Likely secondary to renal failure. Inhibitor study was
   negative, mixing study is pending.
   -TTP workup per Neuro consult: Haptoglobin normal at 72. Ammonia 16
   -Anti-PF4 negative on [**2-5**] so HIT unlikely
   -Continue Procrit injections q Sunday
   -Antiphospholipid antibody study pending
    #Anemia: Likely secondary to previous GI bleed and chronic renal
   failure. Serial hematocrits have been stable around 25.
   - Continue to monitor hematocrit q day, transfuse for <21
   - Erythropoietin today
   - B12 injections q month
   - Holding iron supplementation
   #Bradycardia
   -Hx CAD. Likely secondary to hypothermia. Has resolved. Will continue
   to monitor via telemetry.
    #LE cellulitis
   -Chronic condition- Appreciate wound care consult and will continue
   wound care protocol including elevation of legs, heels off bed and skin
   care.
   #HTN
   - Continue to hold antihypertensives
   - Pressors if necessary
   #Ulcerative colitis: Chronic condition. Stable for now.
   -Ostomy care.
   #FEN
   -Appreciate Nutrition consult. Will continue tube feeds with NovaSource
   15g beneprotein at 30mL/hr
   -No fluids for now.
    #PPx
   -PPI, VAP, HOB up, Heparin 5000 U SC BID.
   # Code Status: DNR, pt. is intubated.
   ICU Care
   Nutrition: Tube feeds as above
   Glycemic Control:
   Lines:
   PICC Line - [**2139-2-13**] 07:14 PM
   Tunneled (Hickman) Line - [**2139-2-13**] 07:15 PM
   Dialysis Catheter - [**2139-2-15**] 08:12 AM
   Prophylaxis:
   DVT:  Heparin 5000 U SC BID
   Stress ulcer:  PPI
   VAP:  HOB up
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Note written by [**First Name8 (NamePattern2) **] [**Doctor Last Name 7391**], MS-4
   I agree with medical student note as outline above.
   [**Known firstname **] [**Last Name (NamePattern1) **], MD
   PGY-1
   Pager [**Numeric Identifier 7415**]

2139-02-16 10:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   LP yest. Cont HD over the weekend. No overnight events.
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Metronidazole - [**2139-2-16**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-16**] 08:30 AM
   Infusions:
   Propofol - 6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-2-16**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2139-2-16**] 08:51 AM
   Other medications:
   vancomycin IV
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-16**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.2
C (97.1
   HR: 108 (81 - 121) bpm
   BP: 125/79(89) {92/40(53) - 149/90(104)} mmHg
   RR: 27 (0 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,524 mL
                                                                    270 mL
   PO:
             TF:
   IVF:
                                                                  1,327 mL
                                                                    270 mL
   Blood products:
                                                                    197 mL
   Total out:
                                                                    168 mL
                                                                    255 mL
   Urine:
                                                                    168 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,356 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (334 - 501) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 107
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : laterally)
   Extremities: Right: 3+, Left: 3+, inc RUE erythema and warmth
   Skin:  Cool, diffuse ecchymoses
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   53 K/uL
   106 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.6 mEq/L
   21 mg/dL
   103 mEq/L
   137 mEq/L
   22.9 %
   12.3 K/uL
        [image002.jpg]
                             [**2139-2-13**]  12:13 PM
                             [**2139-2-13**]  05:42 PM
                             [**2139-2-13**]  07:35 PM
                             [**2139-2-13**]  08:38 PM
                             [**2139-2-14**]  04:01 AM
                             [**2139-2-14**]  10:49 AM
                             [**2139-2-14**]  04:48 PM
                             [**2139-2-15**]  04:51 AM
                             [**2139-2-15**]  03:17 PM
                             [**2139-2-16**]  03:17 AM
   WBC
   8.4
   9.8
   12.3
   Hct
   26.1
   22.7
   25.6
   23.7
   24.0
   24.6
   24.9
   22.9
   Plt
   49
   42
   46
   53
   53
   Cr
   2.0
   1.6
   1.2
   1.5
   Glucose
   99
   123
   109
   106
   Other labs: PT / PTT / INR:13.3/43.4/1.1, ALT / AST:13/19, Alk Phos / T
   Bili:136/0.4, Amylase / Lipase:20/9, Differential-Neuts:84.1 %,
   Band:0.0 %, Lymph:12.2 %, Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL,
   Fibrinogen:295 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:283
   IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: UCx (OSH)- Pseudomonas [**Last Name (un) **] to ceftaz and
   pip-tazo
   Sputum (OSH)- nl flora
   LP yest- OP 19cmH2O, clear, 3wbc, 1rbc, prot 28, gluc 67, cx neg to
   date
   Imaging: CXR- B effusions and interstitial edema unchanged
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -extensive w/u so far unrevealing; prob mixed toxic-metabolic process
   -cont to minimize sedatives; d/c midazolam
   -fentanyl and propofol at minimum doses
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -check sputum if obtainable
   -has tolerated PSV 5/5 for several days, RSBI 107
   -could be extubated but high likelihood of failure- poss reintubation
   and trach if so versus DNI. Need to re-address with family.
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -currently on RRT per Renal. ? end-goal given no change in MS after 48h
   -follow lytes
 URINARY TRACT INFECTION (UTI)
   -cont Zosyn for total 14d; d/c vanco + metronidazole given no evidence
   of other infectious process
 THROMBOCYTOPENIA, ACUTE
   -low suspicion for TTP given neg hemolysis w/u
   -monitor, remove unnecessary meds and monitor
   -full wo/u would entail SPEP and UPEP, consideration of BM bx but cont
   to eval.
 ANEMIA, CHRONIC- hemolysis w/u
   -transfusion threshold of Hgb 7.0 for transfusion
 IMPAIRED SKIN INTEGRITY- monitor for cellulitis, esp RUE
 MALNUTRITION- on tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2139-2-13**] 07:14 PM
   Tunneled (Hickman) Line - [**2139-2-13**] 07:15 PM
   Dialysis Catheter - [**2139-2-15**] 08:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Very long family meeting. Ultimately decided
   to transition to comfort measures only if she remains deeply comatose
   tomorrow. Other family members in tonight. Will alert renal about plan
   of care.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2139-02-17 11:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Lasted 40 min on PSV yest pm. Per fam mtg, extubation and cmo if no
   improvement today. Tachycardia responding to analgesics.
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Metronidazole - [**2139-2-16**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-2-17**] 08:10 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2139-2-16**] 12:50 PM
   Pantoprazole (Protonix) - [**2139-2-16**] 07:44 PM
   Heparin Sodium (Prophylaxis) - [**2139-2-16**] 07:44 PM
   Fentanyl - [**2139-2-17**] 10:23 AM
   Other medications:
   Peridex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-2-17**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 94 (89 - 190) bpm
   BP: 95/47(58) {87/42(53) - 157/102(112)} mmHg
   RR: 14 (10 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                    646 mL
                                                                  1,103 mL
   PO:
             TF:
                                                                    128 mL
                                                                    333 mL
   IVF:
                                                                    519 mL
                                                                    711 mL
   Blood products:
   Total out:
                                                                    362 mL
                                                                    272 mL
   Urine:
                                                                    237 mL
                                                                     72 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                    284 mL
                                                                    831 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 350 (338 - 380) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: ///25/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bilat)
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   57 K/uL
   114 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.8 mEq/L
   15 mg/dL
   104 mEq/L
   140 mEq/L
   21.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2139-2-13**]  05:42 PM
                             [**2139-2-13**]  07:35 PM
                             [**2139-2-13**]  08:38 PM
                             [**2139-2-14**]  04:01 AM
                             [**2139-2-14**]  10:49 AM
                             [**2139-2-14**]  04:48 PM
                             [**2139-2-15**]  04:51 AM
                             [**2139-2-15**]  03:17 PM
                             [**2139-2-16**]  03:17 AM
                             [**2139-2-17**]  03:58 AM
   WBC
   8.4
   9.8
   12.3
   13.1
   Hct
   22.7
   25.6
   23.7
   24.0
   24.6
   24.9
   22.9
   21.9
   Plt
   49
   42
   46
   53
   53
   57
   Cr
   2.0
   1.6
   1.2
   1.5
   1.1
   Glucose
   99
   123
   109
   106
   114
   Other labs: PT / PTT / INR:13.5/35.6/1.2, ALT / AST:13/19, Alk Phos / T
   Bili:136/0.4, Amylase / Lipase:20/9, Differential-Neuts:84.1 %,
   Band:0.0 %, Lymph:12.2 %, Mono:3.0 %, Eos:0.5 %, D-dimer:417 ng/mL,
   Fibrinogen:295 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:283
   IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:1.3 mg/dL
   Microbiology: C. diff- neg
   All cx- neg to date
   Assessment and Plan
   MULTI-ORGAN FAILURE- per family meeting will plan for terminal
   extubation today and CMO
   -cont supportive care until family arrives
   -extensive w/u so far unrevealing; prob mixed toxic-metabolic process
   -cont to minimize sedatives; d/c midazolam
   -fentanyl and propofol at minimum doses
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2139-2-16**] 07:45 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2139-2-13**] 07:14 PM
   Dialysis Catheter - [**2139-2-15**] 08:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes